US08048909B2
Methyl 4,5-diphenyl-1H-pyrrole-3-carboxylate
Using methyl 5-bromo-4-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate (1.01 g), phenylboronic acid (439 mg), sodium carbonate (771 mg) and tetrakis(triphenylphosphine)palladium (420 mg), a procedure as in Reference Example 56 was performed to give the title compound as pale-yellow crystals (yield 506 mg, 76%).

reactant | methyl 5-bromo-4-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | 1.01 g | BrC1=C(C(=CN1S(=O)(=O)C1=CC=CC=C1)C(=O)OC)C1=CC=CC=C1 | C18H14BrNO4S
reactant | phenylboronic acid | 439 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 771 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 420 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 4,5-diphenyl-1H-pyrrole-3-carboxylate | yield 506 mg, 76% | C1(=CC=CC=C1)C=1C(=CNC1C1=CC=CC=C1)C(=O)OC | C18H15NO2
